US04056536
11H-Pyrrolo[2,1-b][3]benzazepin-11-one (1.0 g.) is dissolved in 20 ml. of methylene chloride and 2.66 g. of aluminum chloride is added with cooling. At room temperature there is added little by little 720 mg. of pentanoyl chloride. Fifteen minutes after the addition is complete the mixture is poured onto ice. The organic phase is separated, filtered, dried and concentrated to dryness. The residue is triturated with ether, collected and dried to give 2-pentanoyl-11H-pyrrolo[2,1-b] [3]benzazepin-11-one.

reactant | 11H-Pyrrolo[2,1-b][3]benzazepin-11-one | 1.0 g | C=1C=CN2C1C(C1=C(C=C2)C=CC=C1)=O | C13H9NO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | pentanoyl chloride | C(CCCC)(=O)Cl | C5H9ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-pentanoyl-11H-pyrrolo[2,1-b] [3]benzazepin-11-one | C(CCCC)(=O)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=O | C18H17NO2
